US05576321
Preparation of (2S)-(+)-3-[4-(5-methoxy-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 193 from 5-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (0.70 g, 3.1 mmol) and (S)-(+)-4-(oxiranylmethoxy)-1H-indole (0.58 g, 3.1 mmol). The product was isolated as a yellow foam. Yield 245 mg (19%). mp 105°-110° C. FDMS m/e=417 (M+ of free base). α[D]589 =+7.52 (c=1.01, methanol/dimethylsulfoxide).

reactant | 5-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 3.1 mmol, 0.70 g | COC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C14H16N2O
reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 3.1 mmol, 0.58 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
solvent | methanol dimethylsulfoxide | CO.CS(=O)C
product | (2S)-(+)-3-[4-(5-methoxy-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol | COC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C[C@@H](COC1=C2C=CNC2=CC=C1)O | C25H27N3O3
